US08207172B2
Preparation of 2-(6-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl)ethyl methanesulfonate
The title compound was prepared following the procedure described for example 57 method A, utilizing 2-(6-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl)ethanol (1.53 g, 3.0 mmol), methanesulfonic anhydride (938 mg, 5.4 mmol), and pyridine (1.0 mL, 9.9 mmol). The desired product was collected as a light brown solid (1.72 g, 98%). 1H-NMR (DMSO-d6) δ 8.49 (s, 1H), 8.25 (s, 1H), 8.10 (s, 1H), 8.00 (s, 1H), 7.97 (s, 1H), 7.65 (d, 1H), 7.50 (d, 1H), 7.30 (d, 1H), 6.95-7.15 (m, 3H), 5.70 (s, 2H), 4.53 (t, 2H), 4.40 (t, 2H), 3.40 (t, 2H), 3.10 (s, 3H), 2.92 (t, 2H); LCMS RT=2.93 min; [M+H]+=590.4

reactant | 2-(6-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl)ethanol | 3.0 mmol, 1.53 g | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=C2C2=C(C4=CN(N=C4CC2)CCO)S3)C=CC1 | C27H22FN7OS
reactant | methanesulfonic anhydride | 5.4 mmol, 938 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | pyridine | 9.9 mmol, 1.0 mL | N1=CC=CC=C1 | C5H5N
product | 2-(6-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl)ethyl methanesulfonate | CS(=O)(=O)OCCN1N=C2CCC3=C(C2=C1)SC1=C3C(=NC=N1)NC=1C=C3C=NN(C3=CC1)CC1=CC(=CC=C1)F | C28H24FN7O3S2
